US05216026
Preparation of N-(4-chlorophenyl)-N'-1-pentanesulfonylurea
The general method of procedure A was followed with 1-pentanesulfonamide (10 g), acetone (200 ml), 1N NaOH (66 ml) and 4-chlorophenyl isocyanate (9.6 g). 1N HCl (66 ml) was used to acidify the solution. Additional water was added and after standing overnight the solid was isolated and dried to provide 14 g of product.

reactant | 1-pentanesulfonamide | 10 g | C(CCCC)S(=O)(=O)N | C5H13NO2S
reactant | NaOH | 1N, 66 ml | [OH-].[Na+]
reactant | 4-chlorophenyl isocyanate | 9.6 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | HCl | 1N, 66 ml | Cl | ClH
solvent | water | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(4-chlorophenyl)-N'-1-pentanesulfonylurea | 14 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)CCCCC | C12H17ClN2O3S
